US07476684B2
2-Isonicotinoyl-N-methylhydrazinecarbothioamide
To a gently heated (35° C.) and mechanically stirred suspension of isonicotinohydrazide (435 g) in isopropyl alcohol (6.0 L) was added (methylimino)(thioxo)methane (230 g) in several small portions. After complete addition, the reaction mixture was heated (70° C.) for 6 h with an additional addition of isopropyl alcohol (600 ml) after 30 min. After cooling (ice-bath) the reaction mixture to 17° C., the obtained precipitate was filtered off and washed with isopropyl alcohol (1.0 L). This solid was then air-dried over night to provide 615 g of the title compound as a white powder.

reactant | isonicotinohydrazide | 435 g | C(C1=CC=NC=C1)(=O)NN | C6H7N3O
reactant | (methylimino)(thioxo)methane | 230 g | CN=C=S | C2H3NS
solvent | isopropyl alcohol | 6.0 L | C(C)(C)O | C3H8O
solvent | isopropyl alcohol | 600 ml | C(C)(C)O | C3H8O
product | 2-Isonicotinoyl-N-methylhydrazinecarbothioamide | 615 g | C(C1=CC=NC=C1)(=O)NNC(NC)=S | C8H10N4OS
